US07700628B2
F. 2-[4-(tert-Butyl)-2-(1-Boc-piperidin-4-yloxy)benzoylamino]-N-(5-chloropyridin-2-yl)-4-chlorobenzamide
To a stirring solution of N-(5-chloropyridin-2-yl)-2-amino-4-chlorobenzamide (0.74 g, 26.5 mmol) in pyridine (1 mL) and dichloromethane (20 mL) at 0° C. was added a solution of 4-(tert-butyl)-2-(1-Boc-piperidin-4-yloxy)benzoyl chloride (1.05 g, 26.5 mmol) in dichloromethane (10.5 mL). The cold bath was then removed and after 72 h, the solvent was removed in vacuo and the residue was dissolved in ethyl acetate and washed with water, followed by satd aq NaHCO3 and then brine. The organic phase was then dried with MgSO4, filtered and concentrated in vacuo. The residue was chromatographed over silica gel, eluting with a solution of 20% ethyl acetate in hexanes.

reactant | N-(5-chloropyridin-2-yl)-2-amino-4-chlorobenzamide | 26.5 mmol, 0.74 g | ClC=1C=CC(=NC1)NC(C1=C(C=C(C=C1)Cl)N)=O | C12H9Cl2N3O
reactant | 4-(tert-butyl)-2-(1-Boc-piperidin-4-yloxy)benzoyl chloride | 26.5 mmol, 1.05 g | C(C)(C)(C)C1=CC(=C(C(=O)Cl)C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C | C21H30ClNO4
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10.5 mL | ClCCl | CH2Cl2
product | 2-[4-(tert-Butyl)-2-(1-Boc-piperidin-4-yloxy)benzoylamino]-N-(5-chloropyridin-2-yl)-4-chlorobenzamide | C(C)(C)(C)C1=CC(=C(C(=O)NC2=C(C(=O)NC3=NC=C(C=C3)Cl)C=CC(=C2)Cl)C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C | C33H38Cl2N4O5
